US07196100B2
4-(4-Carbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Combine 4-(4-cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester Example 9, step 1, 215 mg, 0.71 mmol) and potassium carbonate (49 mg, 0.36 mmol) in DMSO (35 mL) at 0° C. Then add dropwise hydrogen peroxide (213 μL). Then stir at room temperature for 1 h. Quench the reaction with water (10 mL) and extract with EtOAc/hexanes (2/1, 3×20 mL). Combine the organic layers, dry over magnesium sulfate, filter and concentrate to give the title compound.

reactant | 4-(4-cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
reactant | potassium carbonate | 0.36 mmol, 49 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 213 μL | OO | H2O2
solvent | DMSO | 35 mL | CS(=O)C | C2H6OS
product | 4-(4-Carbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C(N)=O | C17H24N2O4
